US06825181B1
Step 4 Synthesis of 1-amino-7-hydroxyisoquinoline monohydrobromide:
5.6 g (35.2 mmol) of 7-methoxyisoquinoline was dissolved in 200 ml of xylene. 26.6 ml (176 mmol) of N,N,N′,N′-tetramethylenediamine and 7.28 g (186 mmol) of sodium amide were added to the obtained solution, and they were stirred at 140° C. for 1 hour. After the treatment with ethyl acetate as the extracting solvent in an ordinary manner, 50 ml of hydrobromic acid was added to the obtained crude product and they were stirred at 140° C. overnight. The solvent was evaporated to obtain the title compound.

reactant | 7-methoxyisoquinoline | 35.2 mmol, 5.6 g | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
reactant | sodium amide | 186 mmol, 7.28 g | [NH2-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrobromic acid | 50 ml | Br | BrH
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-amino-7-hydroxyisoquinoline monohydrobromide | Br.NC1=NC=CC2=CC=C(C=C12)O | InChI=1S/C9H8N2O.BrH/c10-9-8-5-7(12)2-1-6(8)3-4-11-9;/h1-5,12H,(H2,10,11);1H
